US05180742
Toluene (15 ml) was added to 0.76 g (5.0 mmole) of 2,5,6-trimethylhydroquinone and 1.28 g (5.0 mmole) of 7-(4-chlorophenyl)-7-hydroxyheptanoic acid, and the mixture was warmed at 60° C. and stirred. 0.19 ml (5.0×0.3 mmole) of boron trifluoride ethyl etherate was added to the mixture, followed by stirring at 60° C. for 15 hours. After the conclusion of the reaction, a large amount of the toluene was distilled off, and the residue was dissolved in tetrahydrofuran (20 ml). An aqueous solution (10 ml) of ferric chloride (2.7 g, 10.0 mmole was added to the solution, followed by stirring at room temperature for 20 minutes. The tetrahydrofuran was distilled off, and ethyl acetate was added to the residue to extract the reaction product. The organic layer was separated out, washed with aqueous sodium chloride solution and dried (magnesium sulfate). The ethyl acetate solution was chromatographed on a short silica gel (10 g) column, and elution was performed with ethyl acetate. The fractions containing the object compound were collected and concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate/isopropyl ether to give 1.52 g (78%) of 7-(4-chlorophenyl)-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoic acid.

reactant | 2,5,6-trimethylhydroquinone | 5.0 mmole, 0.76 g | CC1=C(O)C(=C(C(=C1)O)C)C | C9H12O2
reactant | 7-(4-chlorophenyl)-7-hydroxyheptanoic acid | 5.0 mmole, 1.28 g | ClC1=CC=C(C=C1)C(CCCCCC(=O)O)O | C13H17ClO3
catalyst | boron trifluoride ethyl etherate | 0.3 mmole, 0.19 ml | B(F)(F)F.CCOCC
solvent | Toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(4-chlorophenyl)-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoic acid | 1.52 g, 78% | ClC1=CC=C(C=C1)C(CCCCCC(=O)O)C=1C(C(=C(C(C1C)=O)C)C)=O | C22H25ClO4
